US07199127B2
4 mL of 80% aqueous acetic acid solution were added to 42 mg (0.07 mmol) of (3aS,4R, 6aR)-4-[2-chloro-6-(3-iodobenzylamino)purin-9-yl]-2,2-dimethyltetrahydrothieno[3,4-d][1,3]dioxole-4-carboxylic acid methyl amide from the aforementioned Experimental Example 11, which was then stirred at 55° C. for 12 h. The reaction mixture was distilled under reduced pressure, and then the pH of the concentrate was adjusted to neutral by adding a saturated ammonia methanol solution. The concentrate was purified by silica gel column chromatography using the eluant (dichloromethane and methanol=7:1) to obtain 20 mg (yield: 52%) of (2R,3S,4R)-2-[2-chloro-6-(3-iodobenzylamino)purin-9-yl)-3,4-dihydroxytetrahydrothiophene-2-carboxylic acid methyl amide as white solids (see Table 1).

reactant | (3aS,4R, 6aR)-4-[2-chloro-6-(3-iodobenzylamino)purin-9-yl]-2,2-dimethyltetrahydrothieno[3,4-d][1,3]dioxole-4-carboxylic acid methyl amide | 0.07 mmol, 42 mg | CNC(=O)[C@@]1(SC[C@@H]2OC(O[C@@H]21)(C)C)N2C1=NC(=NC(=C1N=C2)NCC2=CC(=CC=C2)I)Cl | C21H22ClIN6O3S
solvent | acetic acid | 4 mL | C(C)(=O)O | C2H4O2
product | (2R,3S,4R)-2-[2-chloro-6-(3-iodobenzylamino)purin-9-yl)-3,4-dihydroxytetrahydrothiophene-2-carboxylic acid methyl amide | 20 mg, yield: 52% | CNC(=O)[C@@]1(SC[C@@H]([C@@H]1O)O)N1C2=NC(=NC(=C2N=C1)NCC1=CC(=CC=C1)I)Cl | C18H18ClIN6O3S
